US07728155B2
Treatment of (±)-3-[1-(benzyloxy)-4-chloro-2-naphthyl]-2-hydroxypropyl 4-methylbenzenesulfonate (4.6 g, 9.26 mmol) with palladium on carbon (5 wt. %, 0.50 g) and hydrogen chloride in isopropanol (4.0 M, 4.0 mL) generally according to the procedure described for Intermediate 4 provided (±)-3-(4-chloro-1-hydroxy-2-naphthyl)-2-hydroxypropyl 4-methylbenzenesulfonate. Treatment of the phenyl with triphenylphosphine (3.5 g, 13.3 mmol) followed by diisopropylazodicarboxylate (2.69 g, 13.3 mmol) generally according to the procedure described for Intermediate 5 afforded (±)-(5-chloro-2,3-dihydronaphtho[1,2-b]furan-2-yl)methyl 4-methylbenzenesulfonate as a colorless oil. Treatment of the tosylate with sodium azide (1.1 g, 16.4 mmol) generally according to the procedure described for Intermediate 24 gave (±)-(5-chloro-2,3-dihydronaphtho[1,2-b]furan-2-yl)methyl azide as a pale brown oil. Treatment of the azide with sulfided platinum on carbon (5 wt. %, 0.15 g) generally according to the procedure described for Example 2 provided 1.07 g (43%) of (±)-1-(5-chloro-2,3-dihydronaphtho[1,2-b]furan-2-yl)methanamine as a white solid, hydrochloride salt. mp 269-271° C.; Anal. calcd. for C13H12ClNOHCl.0.8H2O: C, 54.87; H, 5.17; N, 4.92. Found: C, 54.68; H, 4.78; N, 4.79.

reactant | (±)-3-[1-(benzyloxy)-4-chloro-2-naphthyl]-2-hydroxypropyl 4-methylbenzenesulfonate | 9.26 mmol, 4.6 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC1=C(C2=CC=CC=C2C(=C1)Cl)OCC1=CC=CC=C1)O | C27H25ClO5S
reactant | hydrogen chloride | Cl | ClH
reactant | (±)-3-(4-chloro-1-hydroxy-2-naphthyl)-2-hydroxypropyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC1=C(C2=CC=CC=C2C(=C1)Cl)O)O | C20H19ClO5S
reactant | triphenylphosphine | 13.3 mmol, 3.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 13.3 mmol, 2.69 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (±)-(5-chloro-2,3-dihydronaphtho[1,2-b]furan-2-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1CC2=C(O1)C1=CC=CC=C1C(=C2)Cl | C20H17ClO4S
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | sodium azide | 16.4 mmol, 1.1 g | [N-]=[N+]=[N-].[Na+]
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
solvent | isopropanol | 4.0 M, 4.0 mL | C(C)(C)O | C3H8O
product | (±)-(5-chloro-2,3-dihydronaphtho[1,2-b]furan-2-yl)methyl azide | ClC1=CC2=C(OC(C2)CN=[N+]=[N-])C2=CC=CC=C12 | C13H10ClN3O
